US08076516B2
Coupling of 3-(3-(biphenyl-3-ylethynyl)phenyl)propan-1-ol with phthalimide was conducted following the method described in Example 21. Purification by flash chromatography (6% EtOAc-hexanes) gave 2-(3-(3-(biphenyl-3-ylethynyl)phenyl)propyl)isoindoline-1,3-dione. Yield (0.320 g, 42%): 1H NMR (400 MHz, CDCl3) δ 7.84 (dd, J=5.6, 3.2 Hz, 2H), 7.77 (m, 1H), 7.71 (dd, J=5.6, 3.2 Hz, 2H), 7.61-7.63 (m, 2H), 7.32-7.57 (m, 8H), 7.18-7.25 (m, 2H), 3.77 (t, J=7.2 Hz, 2H), 2.70 (t, J=7.2 Hz, 2H), 2.02-2.09 (m, 2H).

reactant | 3-(3-(biphenyl-3-ylethynyl)phenyl)propan-1-ol | C1(=CC(=CC=C1)C#CC=1C=C(C=CC1)CCCO)C1=CC=CC=C1 | C23H20O
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
product | 2-(3-(3-(biphenyl-3-ylethynyl)phenyl)propyl)isoindoline-1,3-dione | C1(=CC(=CC=C1)C#CC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C31H23NO2
